US09315492B2
The raw material meta-bromophenylacetic acid (100 g, 0.47 mol, 1.0 eq) was dissolved in dichloromethane (500 ml), then was cooled to 0° C. in ice-salt bath. Oxalyl chloride (120 g, 0.95 mol, 2.0 eq) was added dropwise to the reaction mixture with temperature maintaining 0° C. After the dropping was finished, the reaction temperature was changed to room temperature and reacted for two hours. The reaction mixture was concentrated under reduced pressure to obtain meta-bromophenylacetyl chloride (110 g, 0.47 mol) after the reaction completed. The obtained meta-bromophenylacetyl chloride was dissolved in dichloromethane (200 ml) for further use.

reactant | meta-bromophenylacetic acid | 0.47 mol, 100 g, 1.0 eq | BrC=1C=C(C=CC1)CC(=O)O | C8H7BrO2
reactant | Oxalyl chloride | 0.95 mol, 120 g, 2.0 eq | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
product | meta-bromophenylacetyl chloride | 0.47 mol, 110 g | BrC=1C=C(C=CC1)CC(=O)Cl | C8H6BrClO
